US07211672B2
(±)-Cis-N-(4-chloro-phenyl)-N-[1-(4-fluoro-benzoyl)-2-hydroxymethyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide was prepared from (±)-cis-propionic acid 4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-1,2,3,4-tetrahydro-quinolin-2-ylmethyl ester using the saponification conditions utilized in the synthesis of (±)-cis-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-acetic acid.

reactant | (±)-cis-propionic acid 4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-1,2,3,4-tetrahydro-quinolin-2-ylmethyl ester | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)F)=O)COC(CC)=O)C(CC)=O | C29H28ClFN2O4
reactant | (±)-cis-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-acetic acid | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=C(C=C12)OCC(=O)O)C(C1=CC=C(C=C1)F)=O)C)C(CC)=O | C28H26ClFN2O5
product | (±)-Cis-N-(4-chloro-phenyl)-N-[1-(4-fluoro-benzoyl)-2-hydroxymethyl-1,2,3,4-tetrahydro-quinolin-4-yl]-propionamide | ClC1=CC=C(C=C1)N(C(CC)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)F)=O)CO | C26H24ClFN2O3
